US09108983B2
4-Benzyloxy-N-phenyl-aniline
To a solution of 4-hydroxy-N-phenyl-aniline (30 g; 162 mmol) in acetonitrile (400 mL) there are added 58 g of Cs2CO3 (178 mmol) and stirring is carried out for 15 minutes at ambient temperature. Benzyl bromide (22.5 mL; 178 mmol) is then added dropwise and then the reaction mixture is refluxed for 4 hours. After filtering and rinsing with acetonitrile, the filtrate is concentrated and purified by chromatography over silica gel using petroleum ether and ethyl acetate as eluants. The title product is then obtained in the form of a colourless solid.

reactant | 4-hydroxy-N-phenyl-aniline | 162 mmol, 30 g | OC1=CC=C(NC2=CC=CC=C2)C=C1 | C12H11NO
reactant | Cs2CO3 | 178 mmol, 58 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Benzyl bromide | 178 mmol, 22.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 4-Benzyloxy-N-phenyl-aniline | C(C1=CC=CC=C1)OC1=CC=C(NC2=CC=CC=C2)C=C1 | C19H17NO
